US07582761B2
(c) 2-Chloro-4-iodo-6-(trifluoromethyl)-1H-benzoimidazole
4-Iodo-6-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one (328 mg, 1 mmol) reacted with POCl3 under the conditions of Example 1c to give the title compound as a off-white solid. MS (ESI, pos. ion) m/z: 347(M+1).

reactant | 4-Iodo-6-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 1 mmol, 328 mg | IC1=CC(=CC=2NC(NC21)=O)C(F)(F)F | C8H4F3IN2O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-iodo-6-(trifluoromethyl)-1H-benzoimidazole | ClC1=NC2=C(N1)C=C(C=C2I)C(F)(F)F | C8H3ClF3IN2
